US05468743
A mixture of 67 g of 1-(2-chloroethyl)-3-methoxybenzene, 53.1 g of 1H-imidazole, 99 g of sodium carbonate, 500 ml of 4-methyl-2-pentanone and a few crystals of potassium iodide was stirred for 48 hours at reflux temperature. After cooling, the reaction mixture was diluted with water and extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated and the residue was destilled (13.3 Pa; 160° C.), yielding 49.5 g (62.8%) of 1-[2-(3-methoxyphenyl)ethyl]-1H-imidazole (interm. 10).

reactant | 1-(2-chloroethyl)-3-methoxybenzene | 67 g | ClCCC1=CC(=CC=C1)OC | C9H11ClO
reactant | 1H-imidazole | 53.1 g | N1C=NC=C1 | C3H4N2
reactant | sodium carbonate | 99 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | 500 ml | CC(CC(C)=O)C | C6H12O
product | 1-[2-(3-methoxyphenyl)ethyl]-1H-imidazole | 49.5 g, 62.8% | COC=1C=C(C=CC1)CCN1C=NC=C1 | C12H14N2O
